US05153210
Sodium hydride (1.1 g of an 80% dispersion in oil) was added, with vigorous stirring to a solution of (4-hydroxyphenyl)propan-2-one, ethylene ketal (6.8 g) in dimethylsulphoxide (50 ml). After 30 minutes, methyl 5 nitrofuran-2-carboxylate (5 g) was added and the resulting mixture was stirred and heated at 80°-90° C. for 10 hr. The cooled reaction mixture was poured into ice-water and extracted into diethylether. The organic layer was washed with 5% potassium hydroxide solution and water, dried (MgSO4) and evaporated to an oil which was chromatographed on silica gel. Elution with chloroform gave methyl 5-[4-acetonylphenoxy]-furan-2-carboxylate, ethylene ketal (3.3 g) which was taken up in a 1:1 mixture of methanol and 2N hydrochloric acid and stirred at ambient temperature for 4 hr. Evaporation of the methanol and extraction of the aqueous residue into dichloromethane gave an oil which was chromatographed on silica gel. Elution with chloroform gave methyl 5-[4-acetonylphenoxy]furan-2-carboxylate.

reactant | Sodium hydride | [H-].[Na+]
reactant | (4-hydroxyphenyl)propan-2-one | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | methyl 5 nitrofuran-2-carboxylate | 5 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)OC | C6H5NO5
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 5-[4-acetonylphenoxy]-furan-2-carboxylate | C(C(=O)C)C1=CC=C(OC2=CC=C(O2)C(=O)OC)C=C1 | C15H14O5
